US08536214B2
b) Benzyl 5-bromo-2,3-dihydro-1H-inden-1-ylcarbamate
To a solution of 5-bromo-2,3-dihydro-1H-inden-1-amine (23.57 mmol, 5 g) in ethyl acetate (40 mL) was added potassium carbonate (47.1 mmol, 6.52 g) as a solution in water (40.0 mL). The whole was stirred vigorously before benzyl chloroformate (25.9 mmol, 3.65 mL, 4.42 g) was added and stirring continued overnight. The reaction was quenched with more water and was extracted with DCM (2×). The organic layers were separated and dried using a hydrophobic frit, and were concentrated in vacuo to give desired product as a brown solid (5.5 g, 15.9 mmol, 67.4%). 1H NMR (400 MHz, CDCl3) δ 1.82 (m, 1H) 2.60 (m, 1H) 2.85 (m, 1H) 2.90 (m, 1H), 4.95 (d, 1H) 5.18 (m, 3H) 7.18 (d, 1H) 7.34 (m, 7H).

reactant | 5-bromo-2,3-dihydro-1H-inden-1-amine | 23.57 mmol, 5 g | BrC=1C=C2CCC(C2=CC1)N | C9H10BrN
reactant | potassium carbonate | 47.1 mmol, 6.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloroformate | 25.9 mmol, 3.65 mL, 4.42 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 40.0 mL | O | H2O
product | Benzyl 5-bromo-2,3-dihydro-1H-inden-1-ylcarbamate | 15.9 mmol, 5.5 g, 67.4% | BrC=1C=C2CCC(C2=CC1)NC(OCC1=CC=CC=C1)=O | C17H16BrNO2
